US08455475B2
N-(6-(2,8-Diazaspiro[4.5]decane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)-2-chlorobenzamide
2 M KOH solution (4 ml) was added to a stirred solution of 2-chloro-N-(6-(8-(2,2,2-trifluoroacetyl)-2,8-diazaspiro[4.5]decane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)benzamide (200 mg, 0.374 mmol, 1 eq.) in MeOH (4 ml) and the mixture was stirred for 5 h. Methanol was removed under reduced pressure and it was diluted with EtOAc (100 ml) and washed with water (10 ml) and brine (20 ml). The organic layer was dried over sodium sulfate, filtered and concentrated to dryness. The crude material was used for the next step without further purification.

reactant | KOH | 2 M, 4 ml | [OH-].[K+]
reactant | 2-chloro-N-(6-(8-(2,2,2-trifluoroacetyl)-2,8-diazaspiro[4.5]decane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)benzamide | 0.374 mmol, 200 mg, 1 eq. | ClC1=C(C(=O)NC2CCC3=CC=C(C=C23)C(=O)N2CC3(CC2)CCN(CC3)C(C(F)(F)F)=O)C=CC=C1 | C27H27ClF3N3O3
solvent | MeOH | 4 ml | CO | CH4O
product | N-(6-(2,8-Diazaspiro[4.5]decane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)-2-chlorobenzamide | C1N(CCC12CCNCC2)C(=O)C2=CC=C1CCC(C1=C2)NC(C2=C(C=CC=C2)Cl)=O | C25H28ClN3O2
